US06518268B1
Preparation of 4,5-Dichloro-N-[3-(2,4-dioxo-thiazolidin-5-ylidenemethyl)-phenyl]-phthalamic acid
5-(3-Amino-benzylidene)-thiazolidine-2,4-dione was dissolved in THF and treated with a solution of 4,5-dichlorophthalic anhydride and a catalytic amount of DMAP. The solution was stirred for 8 hours, then filtered and concentrated under vacuum. The residue was dissolved in EtOAc and washed with water. The organic layer was concentrated to an oil and triturated with hexane to give the product as a solid which was collected by filtration.

reactant | 5-(3-Amino-benzylidene)-thiazolidine-2,4-dione | NC=1C=C(C=C2C(NC(S2)=O)=O)C=CC1 | C10H8N2O2S
reactant | 4,5-dichlorophthalic anhydride | ClC=1C=C2C(C(=O)OC2=O)=CC1Cl | C8H2Cl2O3
solvent | THF | C1CCOC1 | C4H8O
catalyst | DMAP | CN(C)C=1C=CN=CC1 | C7H10N2
product | 4,5-Dichloro-N-[3-(2,4-dioxo-thiazolidin-5-ylidenemethyl)-phenyl]-phthalamic acid | ClC=1C=C(C(C(=O)O)=CC1Cl)C(=O)NC1=CC(=CC=C1)C=C1C(NC(S1)=O)=O | C18H10Cl2N2O5S
